US04382958
N-[2-(4-(3-Hydroxypropoxy)phenyl)-1-methylethyl]-2-hydroxy-2-(3-trifluoromethylphenyl)-ethanamine
A mixture of 1-[4-(3-hydroxypropoxy)phenyl]-propan-2-one (1.8 g) and 2-hydroxy-2-(3-trifluoromethylphenyl)ethanamine (1.8 g) were mixed in dry benzene (80 ml) and boiled under reflux in a Dean and Stark apparatus until water evolution was complete. The solvent was evaporated, the residue dissolved in methanol, platinum oxide (50 mg) added and the imine reduced in the presence of hydrogen at atmospheric pressure. When hydrogen uptake ceased the catalyst was removed by filtration and the solvent evaporated. The residue was chromatographed on silica-gel in 4% methanol-dichloromethane to give the title compound (0.94 g) as a colourless oil. Crystallisation from etherhexane gave a white solid, mp 97°-103°, as a 74:26 mixture of diastereoisomers.

reactant | 1-[4-(3-hydroxypropoxy)phenyl]-propan-2-one | 1.8 g | OCCCOC1=CC=C(C=C1)CC(C)=O | C12H16O3
reactant | 2-hydroxy-2-(3-trifluoromethylphenyl)ethanamine | 1.8 g | OC(CN)C1=CC(=CC=C1)C(F)(F)F | C9H10F3NO
reactant | water | O | H2O
solvent | benzene | 80 ml | C1=CC=CC=C1 | C6H6
product | N-[2-(4-(3-Hydroxypropoxy)phenyl)-1-methylethyl]-2-hydroxy-2-(3-trifluoromethylphenyl)-ethanamine | 0.94 g | OCCCOC1=CC=C(C=C1)CC(C)NCC(C1=CC(=CC=C1)C(F)(F)F)O | C21H26F3NO3
